US05563141
N-[2-[4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenyl]ethyl]4-methylphenylsulphonamide
A solution of N-(2-[4-bromoacetylphenyl]ethyl)-4-methylphenylsulphonamide (485 mg) in acetonitrile (10 ml) was added to a stirred solution of 1-(4-pyridyl)piperazine (400 mg) in acetonitrile (10 ml) and the mixture was stirred for 18 hours. The solvent was evaporated in vacuo and the residue purified by flash chromatography on silica, eluting with 10% v/v methanol/dichloromethane. On evaporation of the eluant fraction crystallisation occured. These crystals on filtration and washing with dichloromethane gave the title compound, 230 mg, as an off-white solid: m.p. 133°-135° C.; NMR(d6DMSO) δ8.14(2H,bd), 7.90(2H,d), 7.65(2H,d), 7.59(1H,t), 7.35(2H,d), 7.29(2H,d), 6.81(2H,d), 3.37(2H,s), 3.33(4H,t), 2.98(2H,q), 2.76(2H,t), 2.63(4H,t), 2.38(3H,s); m/e 479(M+H)+ ; calculated for C26H30N4O3S: C, 65.2; H, 6.3; N, 11.7; found. C 65.0; H, 6.3; N, 11.4%.

reactant | N-(2-[4-bromoacetylphenyl]ethyl)-4-methylphenylsulphonamide | 485 mg | BrCC(=O)C1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)C | C17H18BrNO3S
reactant | 1-(4-pyridyl)piperazine | 400 mg | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[2-[4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenyl]ethyl]4-methylphenylsulphonamide | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)C1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)C | C26H30N4O3S
